US04560692
(a) 6-Chloro-4-hydroxyquinoline-3-carboxylic acid ethyl ester
From a mixture of 216 g of diethyl ethoxymethylenemalonate, 126.6 g of p-chloroaniline, and 800 ml of diphenyl heated first at 150°-160° for 15 min and then at 245° for 20 min there was obtained on cooling the above-named compound as a precipitate. This precipitate was collected, and washed with water and with hexane to give 245 g of crude damp solid, which was used directly in the hydrolysis reaction described below.

reactant | diethyl ethoxymethylenemalonate | 216 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | p-chloroaniline | 126.6 g | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 6-Chloro-4-hydroxyquinoline-3-carboxylic acid ethyl ester | 245 g | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1O)Cl | C12H10ClNO3
